US04876249
The reaction was carried out under nitrogen atmosphere in a three neck flask equipped with a magnetic stirring bar, reflux condenser, addition funnel and thermometer. 50 ml of 1-butanol and 667 mg (2.5 mmoles) of cadmium acetate dihydrate was introduced and the catalyst was dissolved by slight warming. 18.13 g (100 mmoles) of undecyl cyanide was added and the solution was heated to 125° C. 7.33 g (120 mmoles) of 2-aminoethanol was then added dropwise controlling the evolution of ammonia. At the end of the reaction (ca. 48 hrs.) the solvent was removed under vacuo. The residue was treated with 100 ml of petroleum ether and filtered after keeping for several hours. The filtrate was washed with water, dried over anhydrous magnesium sulfate, concentrated and the residue was distilled 114° C./0.5mm to give 19.83 g (88%) of 2-undecyl-2oxazoline.

reactant | undecyl cyanide | 100 mmoles, 18.13 g | C(CCCCCCCCCC)C#N | C12H23N
reactant | 2-aminoethanol | 120 mmoles, 7.33 g | NCCO | C2H7NO
reactant | ammonia | N | H3N
catalyst | cadmium acetate dihydrate | 2.5 mmoles, 667 mg | O.O.C(C)(=O)[O-].[Cd+2].C(C)(=O)[O-]
solvent | 1-butanol | 50 ml | C(CCC)O | C4H10O
product | 2-undecyl-2oxazoline | 19.83 g, 88% | C(CCCCCCCCCC)C=1OCCN1 | C14H27NO
